US04016283
50 ml of isopropylamine are added to a solution of 26.9 g of 1-[o-(pyrrol-1-yl)-phenoxy]-2,3-epoxy-propane in 250 ml of isopropanol and the mixture is heated to the boil under reflux for 1 1/2 hours. The oil which remains after evaporating off the volatile constituents in vacuo is distilled in a bulb tube under a high vacuum and gives 1-iso-propylamino-3[o-(pyrrol-1-yl)-phenoxy]-2-propanol as a colourless oil of boiling point 125°-135° C/0.04 mm Hg. The distillate which crystallises can be recrystallised from ether/petroleum ether and gives crystals of melting point 80°-81° C and is in every respect identical with the product obtained in Example 3.

reactant | isopropylamine | 50 ml | C(C)(C)N | C3H9N
reactant | 1-[o-(pyrrol-1-yl)-phenoxy]-2,3-epoxy-propane | 26.9 g | N1(C=CC=C1)C1=C(OCC2CO2)C=CC=C1 | C13H13NO2
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 1-iso-propylamino-3[o-(pyrrol-1-yl)-phenoxy]-2-propanol | C(C)(C)NCC(COC1=C(C=CC=C1)N1C=CC=C1)O | C16H22N2O2
